US07256170B2
d) Preparation of 1,8-dimethylspiro[4,5]decan-1-ol
A mixture of 7-methylspiro[4,5]decan-1-one and 8-methylspiro[4,5]decan-1-one and methyl lithium were reacted together according to the general procedure (example 2, procedure 5) to give the title compound in 43% yield. The crude product was purified by column chromatography on silicagel (eluent: cyclohexane/ethyl acetate 29:1) and bulb-to-bulb distillation (B.p.=68° C./0.04 mbar).

reactant | 7-methylspiro[4,5]decan-1-one | CC1CC2(CCCC2=O)CCC1 | C11H18O
reactant | 8-methylspiro[4,5]decan-1-one | CC1CCC2(CCCC2=O)CC1 | C11H18O
reactant | methyl lithium | C[Li]
product | 1,8-dimethylspiro[4,5]decan-1-ol | 43% yield | CC1(CCCC12CCC(CC2)C)O | C12H22O
